US08258134B2
A solution of 3-cyclopentyl-2-(6-oxo-3-phenoxy-6H-pyridazin-1-yl)-propionic acid (0.30 g, 0.91 mmol) in methylene chloride (9.0 mL, 0.10M) at 25° C. was treated with 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (164 μL, 0.92 mmol) and 1-hydroxybenzotriazole (0.13 g, 0.96 mmol). The solution was stirred at 25° C. for 1.8 h. After this time, the reaction was treated with a solution of 1-methyl-1H-pyrazol-3-ylamine in methylene chloride at 25° C. The reaction was stirred at 25° C. for 5 d. After this time, the reaction was diluted with methylene chloride (100 mL) and was washed with a 1N aqueous hydrochloric acid solution (2×100 mL), a saturated aqueous sodium bicarbonate solution (2×100 mL), water (1×100 mL), and a saturated aqueous sodium chloride solution (1×100 mL), dried over magnesium sulfate, filtered, rinsed with methylene chloride and concentrated in vacuo. Silica gel column chromatography (AnaLogix, 40 g, 50-100% ethyl acetate/hexanes gradient) afforded 3-cyclopentyl-N-(1-methyl-1H-pyrazol-3-yl)-2-(6-oxo-3-phenoxy-6H-pyridazin-1-yl)-propionamide (76.7 mg, 21%) as a white solid; ES+-HRMS m/e calcd for C22H25N5O3 [M+H+] 408.2030 found 408.2030. 1H-NMR (400 MHz, DMSO-d6) δ ppm 0.87-0.98 (m, 1H), 1.17-1.31 (m, 1H), 1.35-1.63 (m, 7H), 1.69 (ddd, J=13.1, 9.3, 3.6 Hz, 1H), 1.88-2.00 (m, 1H), 3.73 (s, 3H), 5.29 (dd, J=11.1, 3.6 Hz, 1H), 6.33 (d, J=2.0 Hz, 1H), 7.09 (d, J=9.8 Hz, 1H), 7.17-7.26 (m, 3H), 7.34-7.43 (m, 2H), 7.46 (d, J=9.8 Hz, 1H), 7.53 (d, J=2.0 Hz, 1H), 10.66 (s, 1H).

reactant | 3-cyclopentyl-2-(6-oxo-3-phenoxy-6H-pyridazin-1-yl)-propionic acid | 0.91 mmol, 0.30 g | C1(CCCC1)CC(C(=O)O)N1N=C(C=CC1=O)OC1=CC=CC=C1 | C18H20N2O4
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 0.92 mmol, 164 μL | CN(CCCN=C=NCC)C | C8H17N3
reactant | 1-hydroxybenzotriazole | 0.96 mmol, 0.13 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-methyl-1H-pyrazol-3-ylamine | CN1N=C(C=C1)N | C4H7N3
solvent | methylene chloride | 0.10M, 9.0 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 3-cyclopentyl-N-(1-methyl-1H-pyrazol-3-yl)-2-(6-oxo-3-phenoxy-6H-pyridazin-1-yl)-propionamide | 76.7 mg, 21% | C1(CCCC1)CC(C(=O)NC1=NN(C=C1)C)N1N=C(C=CC1=O)OC1=CC=CC=C1 | C22H25N5O3
